US05763450
A mixture of 8.7 g of 5-(3,4-dimethoxy-5-iodobenzyl)-pyrimidine-2,4-diamine, 6.2 ml of ethynyltrimethylsilane, 80 mg of bis-trimethylphosphine-palladium dichloride and 1 mg of copper(I) iodide in 25 ml of triethylamine and 25 ml of dimethylformamide is stirred at 60° for 16 hrs. After cooling to room temperature the reaction mixture is treated with 400 ml of water and extracted three times with 200 ml of methylene chloride each time. The combined organic phases are washed twice with 250 ml of water, once with 250 ml of a saturated sodium chloride solution and dried over magnesium sulphate. The crude product is chromatographed on silica gel with methylene chloride/methanol 9:1. 4.73 g (59%) of 5-[3-trimethylsilyl-ethynyl-4,5-dimethoxy-benzyl]-pyrimidine-2,4-diamine are obtained as beige crystals. M.p. 189°-190°.

reactant | 5-(3,4-dimethoxy-5-iodobenzyl)-pyrimidine-2,4-diamine | 8.7 g | COC=1C=C(CC=2C(=NC(=NC2)N)N)C=C(C1OC)I | C13H15IN4O2
reactant | ethynyltrimethylsilane | 6.2 ml | C(#C)[Si](C)(C)C | C5H10Si
reactant | water | 400 ml | O | H2O
reactant | triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 1 mg | [Cu]I
product | 5-[3-trimethylsilyl-ethynyl-4,5-dimethoxy-benzyl]-pyrimidine-2,4-diamine | 4.73 g, 59% | C[Si](C=1C=C(C(C=2C(=NC(=NC2)N)N)C#C)C=C(C1OC)OC)(C)C | C18H24N4O2Si
